US04565816
6 g 2-amino-6-chloro-3-nitropyridine, 12.6 g 1-(4-fluorophenyl)-4-(1-piperazinyl)-1-butanone dihydrochloride and 20 g potassium carbonate in 120 ml n-propanol are stirred under reflux for 21/2 hours. The mixture is then treated with 400 ml water, stirred for further 10 minutes and cooled in ice bath. The resulting precipitate is filtered off, washed with water, dissolved in methylene chloride, dried over sodium sulphate and evaporated. The resulting 1-(4-fluorophenyl)-4-[4-(2-amino-3-nitro-pyridin-6-yl)-1-piperazinyl]-1-butanone, m.p. 128°-130°, is without further purification dissolved in 400 ml methanol. 3 g palladium on charcoal (5%) are added to the solution and the mixture is hydrogenated under normal conditions. The catalyst is filtered off and the solvent distilled off to give 1-(4-fluorophenyl)-4-[4-(2,3-diaminopyridin-6-yl)-1-piperazinyl]-1-butanone which is used without further purification.

reactant | 2-amino-6-chloro-3-nitropyridine | 6 g | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | 1-(4-fluorophenyl)-4-(1-piperazinyl)-1-butanone dihydrochloride | 12.6 g | Cl.Cl.FC1=CC=C(C=C1)C(CCCN1CCNCC1)=O
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 400 ml | O | H2O
solvent | n-propanol | 120 ml | C(CC)O | C3H8O
product | 1-(4-fluorophenyl)-4-[4-(2,3-diaminopyridin-6-yl)-1-piperazinyl]-1-butanone | FC1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=CC=C(C(=N1)N)N)=O | C19H24FN5O
